US09085570B2
To a solution of morpholine (16 g, 183.91 mmol, 1.98 equiv) in dichloromethane (50 mL) at 0-5° C. was added a solution of 2-(4-bromophenyl)acetyl chloride (21.5 g, 92.67 mmol, 1.00 equiv) in dichloromethane (20 mL) dropwise with stirring. The reaction mixture was stirred for another hour at 0˜5° C. The reaction mixture was warmed to room temperature and diluted with 30 mL of dichloromethane. The mixture was washed with 3×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 19.5 g (74%) of 2-(4-bromophenyl)-1-morpholinoethanone as a white solid. LC-MS: (ES, m/z): 284 [M+H]+.

reactant | morpholine | 183.91 mmol, 16 g, 1.98 equiv | N1CCOCC1 | C4H9NO
reactant | 2-(4-bromophenyl)acetyl chloride | 92.67 mmol, 21.5 g, 1.00 equiv | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-(4-bromophenyl)-1-morpholinoethanone | 19.5 g, 74% | BrC1=CC=C(C=C1)CC(=O)N1CCOCC1 | C12H14BrNO2
